US08871798B2
4-{(E)-2-[5-(3-Fluorophenyl)pyridin-2-yl]vinyl}-2-methyloctahydropyrrolo[3,4-a]-indolizine-1,3-dione (2 racemic mixtures)
A mixture of 235 mg of (E)-3-[5-(3-fluorophenyl)pyridin-2-yl]propenal, 133 mg of D-pipecolinic acid, 115 mg of N-methylmaleimide and 30 ml of MeCN is heated at the boil for 2 h. The volatile components are removed under reduced pressure and the residue is purified by column chromatography (silica gel, MeOH:DCM=97:3). In this manner, 2 pure fractions are isolated.

reactant | (E)-3-[5-(3-fluorophenyl)pyridin-2-yl]propenal | 235 mg | FC=1C=C(C=CC1)C=1C=CC(=NC1)/C=C/C=O | C14H10FNO
reactant | D-pipecolinic acid | 133 mg | C1CCN[C@H](C1)C(=O)O | C6H11NO2
reactant | N-methylmaleimide | 115 mg | CN1C(C=CC1=O)=O | C5H5NO2
solvent | MeCN | 30 ml | CC#N | C2H3N
product | 4-{(E)-2-[5-(3-Fluorophenyl)pyridin-2-yl]vinyl}-2-methyloctahydropyrrolo[3,4-a]-indolizine-1,3-dione | FC=1C=C(C=CC1)C=1C=CC(=NC1)/C=C/C1C2C(C3CCCCN13)C(N(C2=O)C)=O | C24H24FN3O2
